US05095022
4-(Dibenz[b,e]oxepin-11(6H)-ylidene)-1-piperidinevaleric acid hydrochloride
A mixture of 4.20 g of ethyl 4-(dibenz[b,e]oxepin-11(6H)-ylidene)-1-piperidinevalerate hydrochloride, 14.5 ml of 2N sodium hydroxide aqueous solution and 40 ml of methanol was refluxed for 1 hr and concentrated. Water was added to the residue, adjusted to pH 2 with 10% hydrochloric acid. The precipitate was collected by filtration and washed with water and ether to give 3.92 g of colorless crystals, which were recrystallized from water to give 3.08 g of colorless prisms, mp 304°-306° C. (dec.).

reactant | ethyl 4-(dibenz[b,e]oxepin-11(6H)-ylidene)-1-piperidinevalerate hydrochloride | 4.20 g | Cl.C1=CC=CC=2OCC3=C(C(C21)=C2CCN(CC2)CCCCC(=O)OCC)C=CC=C3
reactant | sodium hydroxide | 2N, 14.5 ml | [OH-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | 4-(Dibenz[b,e]oxepin-11(6H)-ylidene)-1-piperidinevaleric acid hydrochloride | 3.92 g | Cl.C1=CC=CC=2OCC3=C(C(C21)=C2CCN(CC2)CCCCC(=O)O)C=CC=C3 | InChI=1S/C24H27NO3.ClH/c26-23(27)11-5-6-14-25-15-12-18(13-16-25)24-20-8-2-1-7-19(20)17-28-22-10-4-3-9-21(22)24;/h1-4,7-10H,5-6,11-17H2,(H,26,27);1H
